US08084614B2
A mixture of 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenyl}-butyric acid tert-butyl ester (1.0 g, 2.14 mmol), bis(pinacolato)diboron (816 mg, 3.21 mmol), Pd(dppf)2Cl2 (125 mg, 0.1117 mmol) and potassium acetate (629 mg, 6.42 mmol) in dioxane (20 mL) was degassed by bubbling N2 for 5 minutes and then heated under sealed conditions to 95° C. for 14 hrs. Upon cooling to room temperature, the mixture was diluted with ethyl acetate, washed with water and brine and dried over Na2SO4. The filtrate was then concentrated and purified by silica gel column chromatography eluting with ethyl acetate/hexane (1/4) to yield 4-(2-{[4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-methyl-amino}-phenyl)-butyric acid tert-butyl ester (1.1 g). MS [M+H]+: 514.0; tR=3.24 min (method 1)

reactant | 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenyl}-butyric acid tert-butyl ester | 2.14 mmol, 1.0 g | C(C)(C)(C)OC(CCCC1=C(C=CC=C1)N(C)C(C1=CC(=C(C=C1)Cl)Br)=O)=O | C22H25BrClNO3
reactant | bis(pinacolato)diboron | 3.21 mmol, 816 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.42 mmol, 629 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.1117 mmol, 125 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-{[4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-methyl-amino}-phenyl)-butyric acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(CCCC1=C(C=CC=C1)N(C)C(C1=CC(=C(C=C1)Cl)B1OC(C(O1)(C)C)(C)C)=O)=O | C28H37BClNO5
